US04287341
i. 3,4-Dimethoxy-2-nitrobenzaldehyde (VII)
Anhydrous sodium carbonate (957 g., 9.03 moles), toluene (5 liters), 4-hydroxy-3-methoxy-2-nitrobenzaldehyde (1424 g., 7.22 moles) and dimethyl sulfate (810 ml., 8.67 moles) were refluxed for 4 hours. Toluene was removed in vacuo and the residual solid dissolved in 5 liters of ethyl acetate and 3 liters of water. The organic layer was separated, washed with 2 liters of 1 N NaOH and 6 liters of brine, decolorized with charcoal, dried over magnesium sulfate and filtered. Hexane (7.6 liters) was added slowly. After cooling in an ice bath, 1527 g. product was obtained by filtration. The crude material was recrystallized from ethanol to yield 1187 g. (78%) of the title compound as a pale yellow solid, 60°-62° C.

reactant | sodium carbonate | 9.03 moles, 957 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-hydroxy-3-methoxy-2-nitrobenzaldehyde | 7.22 moles, 1424 g | OC1=C(C(=C(C=O)C=C1)[N+](=O)[O-])OC | C8H7NO5
reactant | dimethyl sulfate | 8.67 moles, 810 ml | S(=O)(=O)(OC)OC | C2H6O4S
solvent | toluene | 5 liters | C1(=CC=CC=C1)C | C7H8
product | 3,4-Dimethoxy-2-nitrobenzaldehyde | 78% | COC=1C(=C(C=O)C=CC1OC)[N+](=O)[O-] | C9H9NO5
